US04255332
Lithium clavulanate (7.15 g, estimated purity 68% pfa 0.025 moles) was stirred in water (45 mls) and cooled in ice. Potassium fluoride solution (3.5 g KF.2H2O in 9 mls solution; 1.5 equivalents) was added slowly to the cloudy brown solution and lithium fluoride separated out as a fairly gummy deposit. The mixture was made up to 100 ml with acetone over 3/4hr and then up to 800 mls with acetone over 1/2 hr. The solid which had separated now was dark brown and was removed by filtration through celite (4 gm). The almost colourless filtrate was added to acetone (1750 ml) over 1 hr with rapid agitation, then filtered and washed with acetone (3×50 ml) and fluid bed dried to give a fine granular just off-white solid potassium clavulanate (3.6 g, 83.1% pfa, 62% recovery).

reactant | Lithium clavulanate | 0.025 moles, 7.15 g | [Li+].C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-]
reactant | Potassium fluoride | 9 mls, 3.5 g, 1.5 equivalents | [F-].[K+]
reactant | lithium fluoride | [F-].[Li+]
solvent | water | 45 mls | O | H2O
product | potassium clavulanate | 3.6 g | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+] | InChI=1S/C8H9NO5.K/c10-2-1-4-7(8(12)13)9-5(11)3-6(9)14-4;/h1,6-7,10H,2-3H2,(H,12,13);/q;+1/p-1/b4-1-;/t6-,7-;/m1./s1
